US05072015
E. Oleyl ethyl carbonate
260 g (1 mol) of a technical grade oleyl alcohol were reacted with 118 g (1 mol) of diethyl carbonate in the same way as described under A. The title compound was obtained in a yield of approximately 370 g in the form of a light yellow, clear liquid having an OH value of 8.5, an acid value of 0.1, an iodine value of 76 and a number average molecular weight of 333.

reactant | oleyl alcohol | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | diethyl carbonate | 1 mol, 118 g | C(OCC)(OCC)=O | C5H10O3
product | Oleyl ethyl carbonate | C(OCCCCCCCC\C=C/CCCCCCCC)(OCC)=O | C21H40O3
